US08039480B2
Methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoro-5-phenylpentanoate was prepared analogously to example 61, starting from 904 mg of methyl (S)-4,4-difluoro-2-isocyanato-5-phenylpentanoate (3.36 mmol) and 907 mg of 6-azaspiro[2.5]octane trifluoroacetate (1.2 eq.). Chromatographic separation by preparative HPLC (gradient: acetonitrile/water and addition of 0.05% TFA) gave methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoro-5-phenylpentanoate as a yellow oil. Yield: 234 mg (18% of theory)

reactant | methyl (S)-4,4-difluoro-2-isocyanato-5-phenylpentanoate | 3.36 mmol, 904 mg | FC(C[C@@H](C(=O)OC)N=C=O)(CC1=CC=CC=C1)F | C13H13F2NO3
reactant | 6-azaspiro[2.5]octane trifluoroacetate | 907 mg, 1.2 eq. | FC(C(=O)O)(F)F.C1CC12CCNCC2
product | methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoro-5-phenylpentanoate | C1CC12CCN(CC2)C(=O)N[C@H](C(=O)OC)CC(CC2=CC=CC=C2)(F)F | C20H26F2N2O3
